US09388161B2
Methyl (S)-6-(1-(azetidin-3-yl)-1H-pyrazol-4-yl)-5-(4-fluorophenoxy)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate (105 mg, 0.241 mmol) was dissolved in methanol and formaldehyde (179 μL, 2.41 mmol) was added. The reaction was stirred for 4 h at ambient temperature and then cooled to 0° C. Sodium triacetoxyborohydride (0.102 g, 0.481 mmol) was added and the reaction was slowly warmed to ambient temperature. After 16 h the reaction was complete, and the reaction mixture was partitioned between ethyl acetate and water. The aqueous phase was separated and extracted with ethyl acetate, and the combined organic layers were washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated to afford methyl (S)-5-(4-fluorophenoxy)-2-methyl-6-(1-(1-methylazetidin-3-yl)-1H-pyrazol-4-yl)-3,4-dihydroquinoline-1(2H)-carboxylate (0.086 g, 79%) as a pale orange oil. 1H NMR (300 MHz, CDCl3) δ ppm 1.13 (d, J=6.45 Hz, 3H) 1.18-1.20 (m, 1H) 1.20-1.33 (m, 1H) 1.55 (br dd, J=13.34, 5.42 Hz, 1H) 1.94-2.18 (m, 4H) 2.22-2.49 (m, 1H) 2.49-2.69 (m, 1H) 3.81 (s, 3H) 4.26 (br s, 1H) 4.61-4.89 (m, 2H) 5.13-5.32 (m, 1H) 6.63-6.82 (m, 2H) 6.83-7.01 (m, 2H) 7.40 (d, J=8.79 Hz, 1H) 7.54-7.67 (m, 2H) 7.79-8.02 (m, 1H). MS (ESI, pos. ion) m/z 451 [M+H]+.

reactant | Methyl (S)-6-(1-(azetidin-3-yl)-1H-pyrazol-4-yl)-5-(4-fluorophenoxy)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | 0.241 mmol, 105 mg | N1CC(C1)N1N=CC(=C1)C=1C(=C2CC[C@@H](N(C2=CC1)C(=O)OC)C)OC1=CC=C(C=C1)F | C24H25FN4O3
reactant | formaldehyde | 2.41 mmol, 179 μL | C=O | CH2O
reactant | Sodium triacetoxyborohydride | 0.481 mmol, 0.102 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methanol | CO | CH4O
product | methyl (S)-5-(4-fluorophenoxy)-2-methyl-6-(1-(1-methylazetidin-3-yl)-1H-pyrazol-4-yl)-3,4-dihydroquinoline-1(2H)-carboxylate | 0.086 g, 79% | FC1=CC=C(OC2=C3CC[C@@H](N(C3=CC=C2C=2C=NN(C2)C2CN(C2)C)C(=O)OC)C)C=C1 | C25H27FN4O3
